US09328042B2
The present invention is directed to a process for the preparation of of Z-1,1,1,4,4,4-hexafluoro-2-butene from 2,3-dichloro-1,3-butadiene. The process of the present invention includes the sequential steps initiating with initiating the reaction of chlorine with 2,3-dichloro-1,3-butadiene to obtain 1,2,2,3,3,4 hexachlorobutane followed by contacting the 1,2,2,3,3,4 hexachlorobutane with tetrabutyl ammonium chloride in a basic aqueous solution to produce 1,2,3,4-tetrachlorobuta-1,3-diene. Chlorine is added to the 1,2,3,4-tetrachlorobuta-1,3-diene to obtain 1,1,2,2,3,3,4,4 octachlorabutane followed by contacting the 1,1,2,2,3,3,4,4 octachlorobutane with tetrabutyl ammonium chloride in a basic aqueous solution to produce 1,1,2,3,4,4-hexachlorobuta-1,3-diene. Hydrogen fluoride is chlorinated and combined with the 1,1,2,3,4,4-hexachlorobuta-1,3-diene to provide E- or Z-1326mxz (1,1,1,4,4,4-hexafluoro-2-chloro-2-butene). Z-1,1,1,4,4,4-hexafluoro-2-chloro-2-butene is reacted with an aqueous solution of an alkali metal hydroxide and an alkali metal halide in the presence of a quaternary alkylammonium salt having alkyl groups of from four to twelve carbon atoms and mixtures thereof, to produce a mixture including hexafluoro-2-butyne. The final step is hydrogenating hexafluoro-2-butyne to 1,1,1,4,4,4 hexafluro-2-butene.

reactant | Chlorine | ClCl | Cl2
reactant | 1,2,3,4-tetrachlorobuta-1,3-diene | ClC=C(C(=CCl)Cl)Cl | C4H2Cl4
reactant | 1,1,2,2,3,3,4,4 octachlorobutane | ClC(C(C(C(Cl)Cl)(Cl)Cl)(Cl)Cl)Cl | C4H2Cl8
catalyst | tetrabutyl ammonium chloride | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,1,2,3,4,4-hexachlorobuta-1,3-diene | ClC(=C(C(=C(Cl)Cl)Cl)Cl)Cl | C4Cl6
